US09193720B2
To a stirred mixture of 3,5-dibromo-4-chloro-2,6-dimethylpyridine (14.94 g, 49.9 mmol) and Cu(I)Br Me2S (0.513 g, 2.495 mmol) in THF (50 mL) was added drop wise 2M iPrMgCl/THF (26.2 ml, 52.4 mmol) at −30° C. over 5 min. Then, the resulting slurry was warmed to −10° C. over 30 min and stirred for 30 min. The homogeneous brown reaction mixture was rapidly transferred via cannula to a solution of ethyl 2-chloro-2-oxoacetate (6.14 ml, 54.9 mmol, degassed for 5 min by bubbling N2 through the solution) in THF (50 mL) maintained at −30° C. The resulting reaction mixture was stirred (1.5 h) while warming to 0° C. Then, taken up in to Et2O (200 mL), washed with 1:1 sat Na2CO3/1M NH4Cl (3×50 mL), dried (MgSO4), filtered and concentrated to give brown viscous oil. Flash chromatography using 2.5, 5 and 7.5% EtOAc/Hex afforded ethyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate (14.37 g, 44.8 mmol, 90% yield) as white solid. 1H NMR (400 MHz, CDCl3) δ 4.42 (q, J=7.0 Hz, 2H), 2.76 (s, 3H), 2.46 (s, 3H), 1.41 (t, J=7.2 Hz, 3H). LCMS (M+H)=322.1.

reactant | 3,5-dibromo-4-chloro-2,6-dimethylpyridine | 49.9 mmol, 14.94 g | BrC=1C(=NC(=C(C1Cl)Br)C)C | C7H6Br2ClN
reactant | iPrMgCl THF | 52.4 mmol, 2M, 26.2 ml | C(C)(C)[Mg]Cl.C1CCOC1
reactant | ethyl 2-chloro-2-oxoacetate | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | Et2O | 200 mL | CCOCC | C4H10O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 44.8 mmol, 14.37 g, 90% yield | BrC=1C(=C(C(=NC1C)C)C(C(=O)OCC)=O)Cl | C11H11BrClNO3
